US06326468B1
10% DIEA (1 min×2)
addition of activated levulinic acid (activated as the symmetric anhydride with 0.5 equivalents of DIC in DCM for 5-10 min)

reactant | levulinic acid | C(CCC(=O)C)(=O)O | C5H8O3
reactant | DIC | 0.5 equivalents | CC(N=C=NC(C)C)C | C7H14N2
reactant | DCM | C(Cl)Cl | CH2Cl2
product | DIEA | CCN(C(C)C)C(C)C | C8H19N
